US05582765
40 ml of a tetrahydrofuran solution of 0.8 moles of 3,4,5-trifluorophenylzinc chloride prepared by reaction between a corresponding Grignard reagent and zinc chloride was dropped in a mixture of 10.0 g of (2-fluoro-4-(4-n-pentyl-4-phenyl-4-silacyclohexyl)phenyl) trifluoromethanesulfonate, 100 mg of tetrakis(triphenylphosphine)palladium (0), 500 mg of lithium chloride and 50 ml of N,N-dimethylformamide. After agitation at 50° C. for 8 hours, the mixture was charged into an ammonium chloride aqueous solution, followed by extraction with ethyl acetate. The ethyl acetate solution was washed with brine, dried, and concentrated, followed by purification of the resultant residue through silica gel chromatography to obtain 8.20 g (yield: 75%) of 4-(4-n-pentyl-4-phenyl-4-silacyclohexyl)-2,3',4',5'-tetrafluorobiphenyl. The results of IR and 1H-NMR analyses of the product are shown below.

reactant | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
reactant | 3,4,5-trifluorophenylzinc chloride | 0.8 moles | [Cl-].FC=1C=C(C=C(C1F)F)[Zn+]
reactant | lithium chloride | 500 mg | [Cl-].[Li+]
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | (2-fluoro-4-(4-n-pentyl-4-phenyl-4-silacyclohexyl)phenyl) trifluoromethanesulfonate | 10.0 g | FC(S(=O)(=O)OC1=C(C=C(C=C1)C1CC[Si](CC1)(C1=CC=CC=C1)CCCCC)F)(F)F | C23H28F4O3SSi
catalyst | zinc chloride | [Cl-].[Zn+2].[Cl-]
catalyst | tetrakis(triphenylphosphine)palladium | 100 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 4-(4-n-pentyl-4-phenyl-4-silacyclohexyl)-2,3',4',5'-tetrafluorobiphenyl | 8.20 g, yield: 75% | C(CCCC)[Si]1(CCC(CC1)C1=CC(=C(C=C1)C1=CC(=C(C(=C1)F)F)F)F)C1=CC=CC=C1 | C28H30F4Si
